US07271153B2
To a solution of 5-(4-methoxybenzyl)-2,6-dimethyl-3H-pyrimidin-4-one (0.30 g) in acetonitrile (6 mL) were added acetobromo-α-D-glucose (0.76 g) and potassium carbonate (0.27 g), and the mixture was stirred for 17 hours at 60° C. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on aminopropyl silica gel (eluent: hexane/ethyl acetate=1/1) and on silica gel (eluent: hexane/ethyl acetate=1/1-1/2) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-(4-methoxybenzyl)-2,6-dimethylpyrimidine (0.24 g).

reactant | 5-(4-methoxybenzyl)-2,6-dimethyl-3H-pyrimidin-4-one | 0.30 g | COC1=CC=C(CC=2C(NC(=NC2C)C)=O)C=C1 | C14H16N2O2
reactant | acetobromo-α-D-glucose | 0.76 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | potassium carbonate | 0.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-(4-methoxybenzyl)-2,6-dimethylpyrimidine | 0.24 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NC(=NC(=C1CC1=CC=C(C=C1)OC)C)C | C28H34N2O11
